US08008497B2
8-Amino-3-hydroxybenzo[c]chromen-6-one (Reference Compound No. 1-(3))
3-Hydroxy-8-nitrobenzo[c]chromen-6-one (Reference Compound No. 1-(2), 52.01 g, 202 mmol) was dissolved in methanol (150 mL)-N,N-dimethylformamide (600 mL), 10% palladium on charcoal (5.00 g) was added thereto, and then the reaction mixture was stirred under hydrogen atmosphere (3 kgf/cm2) at room temperature overnight. After the unsoluble materials were filtered out, the methanol was removed under reduced pressure. Water (2 L) was added to the residue. The precipitated solid was filtered off and dried at 90° C. under reduced pressure to give the titled reference compound (44.02 g) as a pale yellow solid. (Yield 96%)

reactant | 3-Hydroxy-8-nitrobenzo[c]chromen-6-one | OC1=CC=C2C3=C(C(OC2=C1)=O)C=C(C=C3)[N+](=O)[O-] | C13H7NO5
solvent | methanol | 150 mL | CO | CH4O
solvent | N,N-dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 5.00 g | [Pd] | Pd
product | 8-Amino-3-hydroxybenzo[c]chromen-6-one | 44.02 g, Yield 96% | NC=1C=CC2=C(C(OC3=CC(=CC=C23)O)=O)C1 | C13H9NO3
